US06887896B1
Ethyl (2E)-2-Fluoro-3-(4,4-dimethyl-6-n-propoxy-1-tert-butyl-3,4-dihydronaphthalen-7-yl)-2-butenoate (Compound A-48)
As described in General Procedure F-1, 1-(7-bromo-4,4-dimethyl-6-propoxy-1-tert-butyl-3,4-dihydronaphthalen-yl)ethanone (Compound A-39, 34 mg, 0.11 mmol) and triethyl 2-fluoro-2-phosphonoacetate (0.17 mL, 0.86 mmol) were reacted with lithium diisopropylamide (0.86 mmol) in THF (2 mL) to produce the title compound as a yellow oil after purification by flash column chromatography (silica gel, 97:3 hexane:ethyl acetate).

reactant | 1-(7-bromo-4,4-dimethyl-6-propoxy-1-tert-butyl-3,4-dihydronaphthalen-yl)ethanone | 0.11 mmol, 34 mg | BrC1=C(C=C2C(CC(=C(C2=C1)C(C)(C)C)C(C)=O)(C)C)OCCC | C21H29BrO2
reactant | triethyl 2-fluoro-2-phosphonoacetate | 0.86 mmol, 0.17 mL | CCOC(=O)C(F)P(=O)(OCC)OCC | C8H16FO5P
reactant | lithium diisopropylamide | 0.86 mmol | C(C)(C)[N-]C(C)C.[Li+]
solvent | THF | 2 mL | C1CCOC1 | C4H8O
product | Ethyl (2E)-2-Fluoro-3-(4,4-dimethyl-6-n-propoxy-1-tert-butyl-3,4-dihydronaphthalen-7-yl)-2-butenoate | F\C(\C(=O)OCC)=C(/C)\C1=C(C=C2C(CC=C(C2=C1)C(C)(C)C)(C)C)OCCC | C25H35FO3
